US04110447
A mixture of 3.1 g of 1-morpholino-3-p-biphenylyl-butan-3-ol, 10 ml of 67% hydriodic acid and 18 ml of acetic acid is heated at 150° for 1.5 hours. 1-Morpholino-3-p-biphenylyl-butane is obtained after cooling and working up in the customary manner.

reactant | 1-morpholino-3-p-biphenylyl-butan-3-ol | 3.1 g | O1CCN(CC1)CCC(C)(O)C1=C(C=CC=C1)C1=CC=CC=C1 | C20H25NO2
reactant | hydriodic acid | 10 ml | I | HI
solvent | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
product | 1-Morpholino-3-p-biphenylyl-butane | O1CCN(CC1)CCC(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C20H25NO
